US06974817B2
A solution of (5-chloro-2-methoxy-phenyl)-acetic acid (15.5 g, 77.5 mmol) in 48% aqueous hydrogen bromide was heated to reflux for 20 hours. The solution was cooled, diluted with water and extracted with diethyl ether. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product was purified by trituration in 2:1 methylene chloride:hexanes to give (5-chloro-2-hydroxy-phenyl)-acetic acid (12.8 g). This was dissolved in a solution of ethanol saturated with hydrochloric acid and stirred 12 hours. The reaction was concentrated in vacuo, then the crude product was dissolved in diethyl ether and washed with saturated aqueous sodium hydrogen carbonate. The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo to give the title compound (12.7 g).

reactant | (5-chloro-2-methoxy-phenyl)-acetic acid | 77.5 mmol, 15.5 g | ClC=1C=CC(=C(C1)CC(=O)O)OC | C9H9ClO3
solvent | hydrogen bromide | Br | BrH
solvent | water | O | H2O
product | (5-chloro-2-hydroxy-phenyl)-acetic acid | 12.8 g | ClC=1C=CC(=C(C1)CC(=O)O)O | C8H7ClO3
